US06028195
1-[N-Cyclopropylmethyl-N-(2-methoxyquinolin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine
1-[(2-methoxyquinolin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine(106 mg, 0.25 mmol) was dissolved in dimethylformamide(15 ml) and sodium hydride(6.2 mg, 0.26 mmol) was added and the solution was stirred at room temperature for 15 min. Bromomethylcyclopropane(22 mg, 0.26 mmol) was added to the above solution. The mixture was stirred at room temperature for 16 hours and concentrated under the reduced pressure to remove dimethylformamide. The concentrate was purified by column chromatography(ethylacetate:hexane=1:2) to obtain the titled compound.

reactant | 1-[(2-methoxyquinolin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | 0.25 mmol, 106 mg | COC1=NC2=CC=CC=C2C=C1NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC | C23H26N4O4
reactant | sodium hydride | 0.26 mmol, 6.2 mg | [H-].[Na+]
reactant | Bromomethylcyclopropane | 0.26 mmol, 22 mg | BrCC1CC1 | C4H7Br
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1-[N-Cyclopropylmethyl-N-(2-methoxyquinolin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | yield: 78% | C1(CC1)CN(C(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC)C=1C(=NC2=CC=CC=C2C1)OC | C27H32N4O4
